US05354745
Estradiol (50 g), pyridine (90 g), and dry tetrahydrofuran (400 ml) were placed in a four-neck flask (1 liter). Then, acetic anhydride (94 g) was added thereto and the mixture was refluxed for 6 hours under stirring. The pyridine in the solution was concentrated to about ≠ volume. Then, ethyl acetate (400 ml) and distilled water (300 ml) were added, and the mixture was shaken for extraction. The organic layer was washed two times with equal volumes of distilled water. The organic layer was dried over magnesium sulfate, and then dried under reduced pressure to obtain white crystals (estradiol-3,17β-diacetate; 64.1 g).

reactant | Estradiol | 50 g | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | pyridine | 90 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 94 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | estradiol-3,17β-diacetate | CC(=O)O[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=C3C=CC(=C4)OC(=O)C)C | C22H28O4
